US07687491B2
(8a) 2-Bromo-4,5,6,7-tetrahydro-1-benzothiophen-4-ol
To a solution of 4,5,6,7-tetrahydro-1-benzothien-4-yl acetate (5.1 g, 26 mmol) in chloroform (30 ml) was added N-bromosuccinimide (5 g, 28 mmol) at 0° C. with stirring, and the resulting mixture was stirred at room temperature for 3 hours. After stirring, the reaction mixture was poured into water (40 ml) and extracted with ether. The extract was washed with a saturated aqueous solution of sodium chloride and dried over magnesium sulfate. After filtration, the filtrate was evaporated in vacuo. Subsequently, to a solution of the residue thus obtained in a mixed solvent of tetrahydrofuran (20 ml) and water (20 ml) was added sodium hydroxide (2.3 g, 57 mmol) with stirring, and the resulting mixture was stirred for 2 hours. After stirring, the reaction mixture was poured into water (50 ml) to quench the reaction and extracted with ether. The extract was washed with a saturated aqueous solution of sodium chloride and dried over magnesium sulfate. After filtration, the filtrate was evaporated in vacuo, and the crude product of the title compound thus obtained was purified by chromatography on a silica gel column using a mixed solvent of ethyl acetate and hexane (3:7) as the eluent to afford the title compound (5.0 g) in a yield of 82% as a colourless oily product.

reactant | 4,5,6,7-tetrahydro-1-benzothien-4-yl acetate | 26 mmol, 5.1 g | C(C)(=O)OC1CCCC2=C1C=CS2 | C10H12O2S
reactant | N-bromosuccinimide | 28 mmol, 5 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | water | 40 ml | O | H2O
reactant | sodium hydroxide | 57 mmol, 2.3 g | [OH-].[Na+]
reactant | water | 50 ml | O | H2O
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-Bromo-4,5,6,7-tetrahydro-1-benzothiophen-4-ol | yield of 82% | BrC=1SC2=C(C1)C(CCC2)O | C8H9BrOS
